US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 4-morpholinylaniline (61.0 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-[N-(4-morpholinylphenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (33.0 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 4-morpholinylaniline | 61.0 mg | N1(CCOCC1)C1=CC=C(N)C=C1 | C10H14N2O
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-(4-morpholinylphenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 33.0 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC2=CC=C(C=C2)N2CCOCC2)=O)C#N | C26H34FN5O3
